US06958391B2
Production of N6-benzoyl-5′-O-(tert-butyldimethylsilyl)-2′-deoxyadenosine
N6-benzoyl-2′-deoxyadenosine (20.95 g ) was dissolved in 200 ml of DMF. Imidazole (15.7 g) was dissolved to the resultant solution by addition. Then, 20.8 g of tert-butyldimethylsilyl chloride was added. DMF (100 ml) was further added and the solution was stirred at room temperature. After 8 hours, extraction using chloroform was carried out and the organic layer was washed by a saturated aqueous solution of sodium chloride and dried with anhydrous magnesium sulfate. After concentration of the extract, the target compound was purified by column chromatography (methanol/chloroform) to obtain 16.1 g of the titled compound (yield; 61%).

reactant | N6-benzoyl-2′-deoxyadenosine | 20.95 g | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1 | C17H17N5O4
reactant | Imidazole | 15.7 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 20.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N6-benzoyl-5′-O-(tert-butyldimethylsilyl)-2′-deoxyadenosine | 16.1 g, yield; 61% | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO[Si](C)(C)C(C)(C)C)O3)C2N=CN1 | C23H31N5O4Si
